US05268386
A mixture of ethyl {(5-methoxy-3,4-dihydro-4-oxospiro[2H-1-benzopyran-2,1'-cyclohexan]-7-yl)oxy}acetate (prepared in Preparation 49) (0.5 g, 1.44 mmol), ethanedithiol (0.149 g, 1.59 mmol), dry benzene (10 ml), and p-toluenesulfonic acid (0.013 g, 0.076 mmol) is heated to reflux for 12 hours under conditions for azeotropic dehydration. The solvent is removed under reduced pressure. The residue is applied to a silica gel column and eluted with a mixture of ethyl acetate and dichloromethane (1:9). The eluate is applied to a Lober column and eluted with a mixture of ethyl acetate and hexane (1:2) to obtain ethyl {(5-methoxy-3,4-dihydrodispiro[2H-1-benzopyran-2,1'-cyclohexan-4,2"-[1,3]dithiolan]-7-yl)oxy}acetate as an oil (0.50 g, 82.1%). A mixture of the ester (0.49 g, 1.16 mmol), 1N sodium hydroxide (1.27 ml, 1.27 mmol), and ethanol (5 ml) is stirred at room temperature for 0.5 hours. The reaction mixture is made acid with 1N HCl and distilled under reduced pressure at room temperature to remove ethanol. The residue is extracted with diethyl ether. The extract is washed with saturated brine, dried, and the solvent is removed under reduced pressure. The residue is treated with a mixture of diethyl ether and hexane to obtain the title compound as a crystalline soild (0.43 g, 93.7%). Recrystallization from ethyl acetate gives a product having a melting point of 189°-190° C.

reactant | ethyl {(5-methoxy-3,4-dihydro-4-oxospiro[2H-1-benzopyran-2,1'-cyclohexan]-7-yl)oxy}acetate | 1.44 mmol, 0.5 g | COC1=CC(=CC2=C1C(CC1(CCCCC1)O2)=O)OCC(=O)OCC | C19H24O6
reactant | ethanedithiol | 1.59 mmol, 0.149 g | C(C)(S)S | C2H6S2
reactant | benzene | 10 ml | C1=CC=CC=C1 | C6H6
catalyst | p-toluenesulfonic acid | 0.076 mmol, 0.013 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | ethyl {(5-methoxy-3,4-dihydrodispiro[2H-1-benzopyran-2,1'-cyclohexan-4,2"-[1,3]dithiolan]-7-yl)oxy}acetate | 0.50 g, 82.1% | COC1=CC(=CC2=C1C1(SCCS1)CC1(CCCCC1)O2)OCC(=O)OCC | C21H28O5S2
